US08486968B2
(b) N-(trans-4-Trifluoromethyl-cyclohexyl)-6-methylamino-5-nitro-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid amide
A mixture of 6-methylamino-5-nitro-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid (570 mg, 1.64 mmol), TBTU (540 mg, 1.68 mmol), TEA (1.00 mL, 7.2 mmol), THF (10 mL) and DMF (5 mL) are stirred for 5 min. Then trans-4-trifluoromethyl-cyclohexylamine (335 mg, 1.65 mmol) is added and it is stirred for 30 min. Water is added, the mixture is concentrated and the precipitate is filtered, washed with water and dried at 55° C.

reactant | 6-methylamino-5-nitro-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid | 1.64 mmol, 570 mg | CNC1=NC(=C(C(=O)O)C=C1[N+](=O)[O-])N1CCC(CC1)C(F)(F)F | C13H15F3N4O4
reactant | TBTU | 1.68 mmol, 540 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | trans-4-trifluoromethyl-cyclohexylamine | 1.65 mmol, 335 mg | FC([C@@H]1CC[C@H](CC1)N)(F)F | C7H12F3N
solvent | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(trans-4-Trifluoromethyl-cyclohexyl)-6-methylamino-5-nitro-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid amide | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)[N+](=O)[O-])NC)N1CCC(CC1)C(F)(F)F)=O)(F)F | C20H25F6N5O3
